US07723330B2
Step F: Preparation of N-(3-fluoro-4-(3-(1-methylpiperidin-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide:
A 50 mL round-bottomed flask was charged with N-(4-(1-(4-methoxybenzyl)-3-(1-methylpiperidin-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide (16.3 mg, 0.0241 mmol) and CF3COOH (5 mL). The reaction mixture was stirred at 80° C. overnight. The solvent was removed and the residue was purified by silica gel chromatography (DCM/7 M NH3 in MeOH from 50/1 to 10/1, v/v) to afford product, which was further purified by preparative HPLC to afford the desired product (3.2 mg, 16.9%). LRMS (APCI pos): >99% purity, 254 nm, m/e 558 (M+1). 1H NMR (400 MHz, CD3OD) δ 11.94 (s, 1H), 8.24-8.36 (m, 3H), 8.03 (dd, 1H), 7.65 (m, 2H), 7.49 (m, 1H), 7.41 (m, 1H), 7.22-7.30 (m, 2H), 6.31 (d, 1H), 3.62 (m, 2H), 3.45 (m, 1H), 3.14-3.26 (m, 2H), 2.87 (s, 3H), 2.39-2.58 (m, 2H), 2.14-2.32 (m, 2H).

reactant | N-(4-(1-(4-methoxybenzyl)-3-(1-methylpiperidin-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 0.0241 mmol, 16.3 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)NC(=O)C=3C(N(N=CC3)C3=CC=C(C=C3)F)=O)F)C3CCN(CC3)C)C=C1 | C37H33F2N7O4
reactant | CF3COOH | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(3-fluoro-4-(3-(1-methylpiperidin-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 3.2 mg, 16.9% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)NN=C2C2CCN(CC2)C)NC(=O)C=2C(N(N=CC2)C2=CC=C(C=C2)F)=O | C29H25F2N7O3
